US05789415
Step 1, 1-(2-chloromethylpyrimidin-5-yl)cyclopent-3-ene carboxylic acid ethyl ester
To a solution of ethyl 1-(2-hydroxymethylpyrimidin-5-yl)cyclopent-3-ene carboxylate (5.0 g, 20.1 mmol), in chloroform (50 ml) was added pyridine (5.1 ml), followed by thionyl chloride (4.4 ml, 60.3 mmol). The reaction mixture was refluxed for 30 minutes, cooled to room temperature and quenched with water (50 ml). The chloroform layer was collected, washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic extract was dried over MgSO4 and then evaporated to an oily residue, which was purified by flashe chromatography with hexanes/ethyl acetate (3:1) as eluent.

reactant | ethyl 1-(2-hydroxymethylpyrimidin-5-yl)cyclopent-3-ene carboxylate | 20.1 mmol, 5.0 g | OCC1=NC=C(C=N1)C1(CC=CC1)C(=O)OCC | C13H16N2O3
reactant | pyridine | 5.1 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 60.3 mmol, 4.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloromethylpyrimidin-5-yl)cyclopent-3-ene carboxylic acid ethyl ester | C(C)OC(=O)C1(CC=CC1)C=1C=NC(=NC1)CCl | C13H15ClN2O2
